US06288061B1
tert-Butyl 3-cyclohexyl-2-hydroxyimino-3-oxopropionate (2.6 g) and benzylamine (2.1 g) were dissolved in benzene (50 ml), and the mixture was refluxed under heating for 16 hr. The solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (chloroform:ethyl acetate=8:1) to give tert-butyl 5-cyclohexyl-2-phenylimidazole-4-carboxylate (0.90 g), melting point 222-223° C.

reactant | tert-Butyl 3-cyclohexyl-2-hydroxyimino-3-oxopropionate | 2.6 g | C1(CCCCC1)C(C(C(=O)OC(C)(C)C)=NO)=O | C13H21NO4
reactant | benzylamine | 2.1 g | C(C1=CC=CC=C1)N | C7H9N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | tert-butyl 5-cyclohexyl-2-phenylimidazole-4-carboxylate | 0.90 g | C1(CCCCC1)C1=C(N=C(N1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C20H26N2O2
